US06645968B2
N-(2,2,2-trichloro-1-hydroxyethyl)benzamide
2,2,2-Trichloro-1,1-ethanediol and benzamide were processed as described in Example 37C to provide the desired product.

reactant | 2,2,2-Trichloro-1,1-ethanediol | ClC(C(O)O)(Cl)Cl | C2H3Cl3O2
reactant | benzamide | C(C1=CC=CC=C1)(=O)N | C7H7NO
product | N-(2,2,2-trichloro-1-hydroxyethyl)benzamide | ClC(C(O)NC(C1=CC=CC=C1)=O)(Cl)Cl | C9H8Cl3NO2
